US05112998
The procedure of Example 25 was repeated except that 3.9 mg (0.010 mmole) of 20-(1,3-dioxolan-2-yl)-pregna-5,7-diene-1α,3β-diol was used in lieu of 4.3 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-5,7-diene-1α,3β-diol to give 2.7 mg of 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde (yield: 78%).

reactant | 20-(1,3-dioxolan-2-yl)-pregna-5,7-diene-1α,3β-diol | 0.010 mmole, 3.9 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C24H36O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-5,7-diene-1α,3β-diol | 4.3 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C | C27H42O4
product | 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde | 2.7 mg, yield: 78% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C22H32O3
